data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1cccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1F.[H+]", "products": "COc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1F"}, {"reactants": "COc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1F", "products": "COc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1F.O"}, {"reactants": "COc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1F", "products": "COc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1F"}, {"reactants": "COc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1F", "products": "COc1cccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1F"}, {"reactants": "COc1cccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1F.O", "products": "COc1cccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1F"}, {"reactants": "COc1cccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1F", "products": "COc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1F"}, {"reactants": "COc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1F", "products": "COc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1F"}, {"reactants": "COc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1F", "products": "COc1cccc(C2CCC3C(=O)OC2(C)C3(C)C)c1F.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)c(C)c1Cl.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(C)c1Cl"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(C)c1Cl", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(C)c1Cl.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(C)c1Cl", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(C)c2Cl)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(C)c2Cl)C(=N)C=C1", "products": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(C)c1Cl"}, {"reactants": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(C)c1Cl", "products": "COc1cc2c(c(C)c1Cl)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(C)c1Cl)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "COc1cc2c(c(C)c1Cl)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(C)c1Cl)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "COc1cc2c(c(C)c1Cl)[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(c(C)c1Cl)[NH+]=CC2c1ccccc1", "products": "COc1cc2c(-c3ccccc3)c[nH]c2c(C)c1Cl.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1cc(F)c(Br)c(N(C)C(=O)C2=CCCC2)c1.[Pd]", "products": "Cc1cc(F)[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1"}, {"reactants": "Cc1cc(F)[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1", "products": "Cc1cc(F)c2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "Cc1cc(F)c2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "Cc1cc(F)c2c(c1)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CCC(F)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CCC(F)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CCC(F)N(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CCC(F)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CCC(F)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CCC(F)N3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)CCl)c([Si](C)(C)C)c2Cl", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)C)c([Si](C)(C)CCl)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)C)c([Si](C)(C)CCl)cc1=C", "products": "C[C@]12CC[C@@H]3c4c(cc([Si](C)(C)CCl)c([Si](C)(C)C)c4Cl)CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(CCl)CCl)c([Si](C)(C)C)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(CCl)CCl)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(CCl)CCl)c([Si](C)(C)C)cc1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(CCl)CCl)c([Si](C)(C)C)cc4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CCC1F.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CCC1F.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CCC1F", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CCC2F.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CCC2F", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(CCC2F)C(=O)CC41c2ccccc2N(C)C31"}]}
